US03979385
115 parts of N-formylmorpholine and 82 parts of phosphorous acid were mixed and reacted with 137 parts of phosphorus trichloride. The reaction mixture was then treated with about 5000 parts of water, and the solution was filtered and concentrated. The precipitate obtained was isolated and recrystallized from water/acetone. After drying, a yield of 35% of morpholinomethanediphosphonic acid was obtained.

reactant | N-formylmorpholine | C(=O)N1CCOCC1 | C5H9NO2
reactant | phosphorous acid | P(O)(O)O | H3O3P
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | water | O | H2O
product | morpholinomethanediphosphonic acid | yield of 35% | O1CCN(CC1)C(P(O)(=O)O)P(O)(=O)O | C5H13NO7P2
